US05340898
Preparation of (4-octyloxyphenyl)phenyliodonium tosylate
22.2 g (or 0.057 mol) of hydroxytosyloxy-iodobenzene, 9 g (or 0.04 mol) of n-octyl phenyl ether, 5 ml of acetonitrile and 1.5 ml of acetic acid were charged into a 250 ml Erlenmeyer flask equipped with a magnetic stirrer bar. This mixture was stirred and was heated to a temperature of 40° C. for 2 hours and 30 minutes. 1.5 ml of glacial acetic acid were then added and the mixture was then maintained for 5 hours at 40° C. The reaction mixture was permitted to cool and 150 ml of water were added while stirring vigorously. This mixture was then stirred for 12 hours at room temperature and was then separated. The organic phase was washed several times with water, until a yellow precipitate appeared. This solid was recovered by filtration, was washed with 50 ml of ether and was then dried under vacuum at a temperature of 45° C.

reactant | hydroxytosyloxy-iodobenzene | OC=1C(=C(C=CC1)I)OS(=O)(=O)C1=CC=C(C)C=C1 | C13H11IO4S
reactant | n-octyl phenyl ether | C1(=CC=CC=C1)OCCCCCCCC | C14H22O
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 150 ml | O | H2O
product | (4-octyloxyphenyl)phenyliodonium tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1.C(CCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1 | InChI=1S/C20H26IO.C7H8O3S/c1-2-3-4-5-6-10-17-22-20-15-13-19(14-16-20)21-18-11-8-7-9-12-18;1-6-2-4-7(5-3-6)11(8,9)10/h7-9,11-16H,2-6,10,17H2,1H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
